US03974153
c. (1R,6R,7R)-3-Carbamoyloxymethyl-7-[2-(fur-2-yl)-2-methoxyiminoacetamido]ceph-3-em-4-carboxylic Acid 1-Oxide (syn isomer)
t-Butyl (1R,6R,7R)-3-carbamoyloxymethyl-7-[2-(fur-2-yl)-2-methoxyiminoacetamido]ceph-3-em-4-carboxylate 1-oxide (syn isomer) (0.42g) was dissolved in trifluoroacetic acid (5ml) and stirred at room temperature for 8 minutes. The solution was evaporated to a red oil in vacuo, dissolved in ethyl acetate:acetone (1:1, 5ml) and added dropwise with stirring to petroleum ether (60°-80°, 50ml). The deposited solid was collected and dried in a desiccator. The crude product was slurried with ethyl acetate, and the liquid phase was decanted and added dropwise to petroleum ether (60°-80° , 50ml), yielding the title compound as a colourless solid (150mg, 40%), λmax (0.25N NaHCO3) 263.5 (ε 15,000) and 281nm (ε 13,700); νmax (Nujol) 1,799 (β-lactam), 1725 and 1716 (COOH and OCONH2), 1684 and 1538 (CONH) and 1060 and 1050cm-1 (S→O);τ(Me2SO-d6) values include 0.02 (d, J8Hz, CONH), 4.17(dd, J4 and 8Hz, 7-H), 4.99 (d, J4Hz, 6-H) and 6.09 (s, N-OCH3).

reactant | t-Butyl (1R,6R,7R)-3-carbamoyloxymethyl-7-[2-(fur-2-yl)-2-methoxyiminoacetamido]ceph-3-em-4-carboxylate 1-oxide | 0.42g | C(N)(=O)OCC=1C[S@]([C@H]2N(C1C(=O)OC(C)(C)C)C([C@H]2NC(C(=NOC)C=2OC=CC2)=O)=O)=O | C20H24N4O9S
solvent | trifluoroacetic acid | 5ml | FC(C(=O)O)(F)F | C2HF3O2
product | (1R,6R,7R)-3-Carbamoyloxymethyl-7-[2-(fur-2-yl)-2-methoxyiminoacetamido]ceph-3-em-4-carboxylic Acid 1-Oxide | 150mg, 40% | C(N)(=O)OCC=1C[S@]([C@H]2N(C1C(=O)O)C([C@H]2NC(C(=NOC)C=2OC=CC2)=O)=O)=O | C16H16N4O9S
